US06300334B1
d) 6-(1H-Benzimidazol-1-ylmethyl)-3-methyl-5-[(1-methylethyl)thio]-1-(2-methylpropyl)-thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione
Benzimidazole (0.083 g) and sodium hydride (60% dispersion, 0.031 g) were added to 6-(chloromethyl)-3-methyl-5-[(1-methylethyl)thio]-1-(2-methylpropyl)-thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione (0.21 g) in dry dimethylformamide (10 ml) and the reaction was stirred for 2 hours at room temperature. Water was added to the reaction mixture which was then extracted with ethyl acetate (3×50 ml). The combined organic phases were washed with brine and dried, filtered and evaporated. The residue was triturated with diethyl ether to give the title compound (0.163 g).

reactant | Benzimidazole | 0.083 g | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | sodium hydride | 0.031 g | [H-].[Na+]
reactant | 6-(chloromethyl)-3-methyl-5-[(1-methylethyl)thio]-1-(2-methylpropyl)-thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 0.21 g | ClCC1=C(C2=C(N(C(N(C2=O)C)=O)CC(C)C)S1)SC(C)C | C15H21ClN2O2S2
reactant | Water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 6-(1H-Benzimidazol-1-ylmethyl)-3-methyl-5-[(1-methylethyl)thio]-1-(2-methylpropyl)-thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 0.163 g | N1(C=NC2=C1C=CC=C2)CC2=C(C1=C(N(C(N(C1=O)C)=O)CC(C)C)S2)SC(C)C | C22H26N4O2S2
